Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Cholecystostomy tube placement on ___

 
History of Present Illness:
This is a ___ year old male transferred to ___ from ___ 
for placement of percutaneous cholecystomy tube after finding a 
positive HIDA scan, with high suspicion for cholecystitis.

Mr ___ has a history of a bilateral VP shunt.  He is bed bound 
and has dementia. According to his health care proxy, a lawyer 
Mr ___, he fell down a set of stairs ___ years ago which 
led to much of his deterioration.  His lawyer is his health care 
proxy but not a guardian.

He was recently at an extended care facility when he became 
progressively lethargic and hypoxic.  He was started on 6 L by 
nasal cannula.  He was admitted to ___ on ___ 
where he was given empiric antibiotics for presumed sepsis.  BP 
was in the ___.  A right IJ was placed.   CTA chest was negative 
for PE.  CT Torso revealed concern for acute cholecystitis, 
although patient denied abdominal pain.   HIDA scan was 
performed which was positive.   He was subsequently transferred 
to ___ for percutaneous cholecystostomy.   

At time of transfer, he was not in any pain or discomfort.   
 
Past Medical History:
1. subdural hemorrhage s/p bilateral VP shunts
2. dysphagia
3. dementia
4. hypothyroidism

 
Social History:
___
Family History:
NC 
 
Physical Exam:
Exam:
Physical Exam: BP 115/61, 95% RA, HR 75, temp 101.7
Gen: Caucasian male in no apparent distress, drowsy, not 
oriented
HEENT: Anicteric
Cardiac: Nl s1/s2 RRR no appreciable murmurs
Pulm: clear bilaterally
Abd: soft, NT ND normoactive bowel sounds, no elicitable 
___ sign
Ext: no edema noted

Discharge examination:
General: no apparent distress
98.0, 102/57, 65, 18, 95% RA, ___, UOP 675 (8hrs)
HEENT: evidence of prior surgery, anicteric, MMM
Cardiac: rr, nl rate, no murmur
Pulm: no wheezes or rales apparent, bibasilar crackles.
Abd: soft NT, normoactive bowel sounds, cholecystostomy tube in 
place without surrounding erythema, c/d/i 
Ext: no edema noted
GU: condom catheter in place.
 
Pertinent Results:
___ 02:55PM BLOOD WBC-16.4* RBC-3.76* Hgb-11.1* Hct-32.6* 
MCV-87 MCH-29.5 MCHC-33.9 RDW-13.2 Plt ___
___ 04:46AM BLOOD WBC-8.2 RBC-3.80* Hgb-11.0* Hct-33.6* 
MCV-88 MCH-29.0 MCHC-32.8 RDW-13.3 Plt ___
___ 04:46AM BLOOD ___ PTT-31.5 ___
___ 04:46AM BLOOD Glucose-98 UreaN-12 Creat-0.7 Na-140 
K-3.5 Cl-105 HCO3-26 AnGap-13
___ 05:24AM BLOOD ALT-25 AST-27 LD(LDH)-182 AlkPhos-95 
TotBili-0.7
___ 04:46AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.9

Gallbladder cx:
    PERC CHOLEY BILE SAMPLE FROM GALLBLADDER. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   FLUID CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT in
         this culture.. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 
 
Brief Hospital Course:
___ with acute cholecystitis.

# Acute cholecystitis:
He was treated with percutaneous cholecystostomy tube placement 
and antibiotics (please see ___ note for more 
information on work up and prior discharge summary). He will be 
given a total of 14 days of cipro and flagyl (discontinue on 
___. Cultures were pending at the time of discharge but 
clinically he is significantly improved. He will have follow up 
with general surgery to decide if surgery is indicated and to 
decide when the perc chole drain can be removed. 

# Hypothyroidism:
Levothyroxine.

# Hyperlipidemia: 
Pravastatin.

# Traumatic brain injury:
# Seizure disorder:
On keppra. No evidence of seizure in the hospital.

# Diet: 
He was discharged on mechanical dysphagia diet which he appeared 
to be tolerating well.

# Nursing issues: 
He positioning was changed frequently. He had a stage I pressure 
ulcer.

# Code status: 
He has different documentation in BID-N and prior hospitalists 
note. However, I do not see documentation of a discussion with 
HCP. I attempted to call the HCP on 3 different phone numbers 
(multiple times) without response. Given this, he was continued 
as full code. I recommend a discussion with the HCP to determine 
an accurate code status.

Transitional issues:
- surgery follow up to decide if cholecystectomy is indicated 
and when perc cholecystostomy tube can be removed.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Pravastatin 40 mg PO DAILY 
4. LeVETiracetam 750 mg PO BID 

 
Discharge Medications:
1. LeVETiracetam 750 mg PO BID 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
4. Aspirin 81 mg PO DAILY 
5. Levothyroxine Sodium 25 mcg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
8. Bisacodyl 10 mg PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute cholecystitis 
 
Discharge Condition:
Mental Status: Clear.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ because you were diagnosed with 
cholecystitis at ___. At that time, a HIDA scan 
was performed which revealed a block in one of the bile ducts. 
To treat this, we placed a tube into the gallbladder to drain 
the bile. We also started on you on antibiotics. You will have 
to continue these antibiotics for 14 days and will have to see 
general surgery in follow up (see appointments below) with the 
possible consideration for removing the gallbladder in the 
future. 
 
Followup Instructions:
___